US07517875B2
After suspending 2-(Boc)amino-6-chlorobenzoic acid (1.51 g, 5.56 mmol) in toluene (20 mL), the mixture was heated to reflux. Oxalyl chloride (0.572 mL, 6.67 mmol) was added dropwise thereto, and the mixture was vigorously stirred for 10 minutes. After cooling the reaction mixture on ice, the precipitated crystals were filtered out, washed with n-hexane and dried in a desiccator to obtain 5-chloroisatoic anhydride.

reactant | 2-(Boc)amino-6-chlorobenzoic acid | 5.56 mmol, 1.51 g | C(=O)(OC(C)(C)C)NC1=C(C(=O)O)C(=CC=C1)Cl | C12H14ClNO4
reactant | Oxalyl chloride | 6.67 mmol, 0.572 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 5-chloroisatoic anhydride | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4ClNO3
